multisource_5R_network - fault test
V1 A 0 DC 10
V2 B 0 DC 15
I1 0 C DC 5
R1 A 0 2014.846811
R2 A B 2035.001215
R3 A C 998.985696
C4 B C 7.41e-06
R5 C 0 3966.248316
.op
.control
run
print v(A) v(B) v(C)
print @r1[i] @r2[i] @r3[i] @r5[i]
print @i1[i]
.endc
.end
